US05051422
N-[[4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-N-(1-methylethyl)-4-[(methylsulfonyl)amino]benzamide
In a manner similar to Preparation 3, react 4-(3-chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(1-methylethyl)-2-piperazinemethanamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtainthe title compound.

reactant | 4-(3-chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]-N-(1-methylethyl)-2-piperazinemethanamine | ClC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CNC(C)C | C23H32ClN3O2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[[4-(3-Chlorophenyl)-1-[(3,4-dimethoxyphenyl)methyl]piperazin-2-yl]methyl]-N-(1-methylethyl)-4-[(methylsulfonyl)amino]benzamide | ClC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC(=C(C=C1)OC)OC)CN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C(C)C | C31H39ClN4O5S
